US05240935
A solution of methyl iodide (112 mL, 1.8 mole) in ether (225 mL) was added dropwise to a suspension of magnesium turnings (44 g, 1.8 mole) in ether (225 mL) under nitrogen over a period of 1 hour. The mixture was stirred at room temperature for 1 hour, transferred into a 1000 mL addition funnel and then was added to a suspension of N-(phenylmethyl)-3,4-dimethylpyridinium chloride (350.7 g, 1.5 mole) in ether (1500 mL) under a nitrogen atmosphere. The reaction mixture was stirred at room temperature for 24 hours and was then poured into a solution of saturated ammonium chloride (3 L). The organic layer was separated and the aqueous layer was extracted with ether (1000 mL). The combined ether layers were washed with water (500 mL), then brine (500 mL) and were dried over sodium sulfate and potassium carbonate. The solvent was removed in vacuo to afford 284.1 g (76%) of 1,2-dihydro-N-(phenylmethyl)-2,3,4-trimethylpyridine as an amber oil.

reactant | methyl iodide | 1.8 mole, 112 mL | CI | CH3I
reactant | magnesium | 1.8 mole, 44 g | [Mg] | Mg
reactant | N-(phenylmethyl)-3,4-dimethylpyridinium chloride | 1.5 mole, 350.7 g | [Cl-].C1(=CC=CC=C1)C[N+]1=CC(=C(C=C1)C)C
reactant | ammonium chloride | 3 L | [Cl-].[NH4+]
solvent | ether | 225 mL | CCOCC | C4H10O
solvent | ether | 225 mL | CCOCC | C4H10O
solvent | ether | 1500 mL | CCOCC | C4H10O
product | 1,2-dihydro-N-(phenylmethyl)-2,3,4-trimethylpyridine | 284.1 g, 76% | C1(=CC=CC=C1)CN1C(C(=C(C=C1)C)C)C | C15H19N
